US06933304B2
Methyl 4-{4-[4-(acetyloxy)butyl]-1,3-thiazol-2-yl}-3,3-dimethylbutanoate:
Methyl 5-amino-3,3-dimethyl-5-thioxopentanoate (500 mg; 2.64 mmoles) was dissolved in 1,4-dioxane (10 mL) under nitrogen and magnesium carbonate hydroxide pentahydrate (640 mg; 1.32 mmoles) was added. 6-Chloro-5-oxohexyl acetate (685 mg; 3.56 mmoles; Rieke, R. D.; Brown, J. D.; Wu, X. Synth. Commun. 1995, 25(23), 3923.) was added and the mixture was magnetically stirred for 10 hours with heating to 60° C. The mixture was allowed to cool, diluted with ethyl acetate and filtered. The solvent was removed under vacuum and the residue was purified by chromatography on silica gel, eluting with hexane/ethyl acetate (3:1). Following removal of solvent the product, methyl 4-{4-[4-(acetyloxy)butyl]-1,3-thiazol-2-yl}-3,3-dimethylbutanoate, was obtained as pale yellow oil. (820 mg). The material was impure, containing some 6-Chloro-5-oxohexyl acetate. 1H NMR (400 MHz) CDCl3 δ 6.76 (1H, s), 4.04-4.11 (2H, m), 3.68 (3H, m), 3.05 (2H, s), 2.78 (2H, t, J=7.5 Hz), 2.33 (2H, s), 2.04 (3H, s), 1.61-1.82 (4H, m), 1.10 (6H, s).

reactant | Methyl 5-amino-3,3-dimethyl-5-thioxopentanoate | 2.64 mmoles, 500 mg | NC(CC(CC(=O)OC)(C)C)=S | C8H15NO2S
reactant | magnesium carbonate hydroxide pentahydrate | 1.32 mmoles, 640 mg | O.O.O.O.O.[OH-].C([O-])(O)=O.[Mg+2]
reactant | 6-Chloro-5-oxohexyl acetate | 3.56 mmoles, 685 mg | C(C)(=O)OCCCCC(CCl)=O | C8H13ClO3
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 4-{4-[4-(acetyloxy)butyl]-1,3-thiazol-2-yl}-3,3-dimethylbutanoate | C(C)(=O)OCCCCC=1N=C(SC1)CC(CC(=O)OC)(C)C | C16H25NO4S
